US04096143
α,α-dibromo-o-toluic acid (29.4 g), benzylhydrazine dihydrochloride (19.5 g) and triethylamine (60 g) were allowed to react as in Example 4. There was obtained 12.1 g (yield: 51%) of 2-benzyl-1-phthalazinone having a melting point of 104°-105° C.

reactant | α,α-dibromo-o-toluic acid | 29.4 g | BrC(C=1C(=CC=CC1)C(=O)O)Br | C8H6Br2O2
reactant | benzylhydrazine dihydrochloride | 19.5 g | Cl.Cl.C(C1=CC=CC=C1)NN
solvent | triethylamine | 60 g | C(C)N(CC)CC | C6H15N
product | 2-benzyl-1-phthalazinone | 12.1 g, yield: 51% | C(C1=CC=CC=C1)N1C(C2=CC=CC=C2C=N1)=O | C15H12N2O
